US06300368B1
3,4,5,6-Tetrahydro-2H-pyran-4-carboxylic acid (10.0 g) solution in dimethylformamido (15 ml) was added drop-wise with carbonyl diimidazole (13.1 g) in dimethylformamido (65 ml) in an ice bath and the mixture was stirred for 30 minutes at room temperature. 4-Aminophenol (8.4 g) solution in dimethylformamido (20 ml) was added drop-wise to this mixture in ice bath and the mixture was stirred for 5 hours at room temperature. The reaction mixture was concentrated to small volume and further stirred after addition of 2N HCl (100 ml). Crystals formed were collected by filtration, washed with water and then dried under vacuum at 60° C. to obtain 4′-hydroxy-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide (13.5 g) as white crystal.

reactant | 3,4,5,6-Tetrahydro-2H-pyran-4-carboxylic acid | 10.0 g | O1CCC(CC1)C(=O)O | C6H10O3
reactant | carbonyl diimidazole | 13.1 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-Aminophenol | 8.4 g | NC1=CC=C(C=C1)O | C6H7NO
product | 4′-hydroxy-3,4,5,6-tetrahydro-2H-pyran-4-carboxanilide | 13.5 g | OC1=CC=C(NC(=O)C2CCOCC2)C=C1 | C12H15NO3
